data/polar.json
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[O:3]=[S:16](=[O:4])([N:15]([S:12][C:7]([F:9])([F:10])[F:11])[S:17](=[O:5])(=[O:6])[c:33]1[cH:20][cH:27][cH:23][cH:28][cH:21]1)[c:32]1[cH:18][cH:25][cH:22][cH:26][cH:19]1.[cH:1]1[c:37]([CH:24]=[C:30]2[S:13][c:35]3[cH:31][cH:14][cH:29][cH:8][c:34]3[N:41]2[CH3:36])[cH:2][cH:39][cH:40][cH:38]1>>[O:3]=[S:16](=[O:4])([N-:15][S:17](=[O:5])(=[O:6])[c:33]1[cH:20][cH:27][cH:23][cH:28][cH:21]1)[c:32]1[cH:18][cH:25][cH:22][cH:26][cH:19]1.[cH:1]1[c:37]([CH:24]([S:12][C:7]([F:9])([F:10])[F:11])[c:30]2[s:13][c:35]3[cH:31][cH:14][cH:29][cH:8][c:34]3[n+:41]2[CH3:36])[cH:2][cH:39][cH:40][cH:38]1", "epd": [["LP-/Pi+", [41], [30, 41]], ["Pi-/Sigma+", [24, 30], [24, 12]], ["Sigma-/LP+", [12, 15], [15]]]}
{"reaction_name": "Conjugate addition to an electron-poor quinone", "rsmi": "[C:2]1([Cl:25])=[C:3]([Cl:26])[C:5](=[O:7])[C:19]([C:27]#[N:29])=[C:20]([C:28]#[N:30])[C:4]1=[O:6].[cH:1]1[cH:13][cH:8][c:18]([C:15](=[C:10]2[N:11]([CH3:23])[C:16]([CH3:22])=[C:31]([CH3:24])[S:17]2)[O:21][CH3:12])[cH:9][cH:14]1>>[cH:1]1[cH:13][cH:8][c:18]([C:15]([c:10]2[n+:11]([CH3:23])[c:16]([CH3:22])[c:31]([CH3:24])[s:17]2)([C:19]2([C:27]#[N:29])[C:5](=[O:7])[C:3]([Cl:26])=[C:2]([Cl:25])[C:4]([O-:6])=[C:20]2[C:28]#[N:30])[O:21][CH3:12])[cH:9][cH:14]1", "epd": [["LP-/Pi+", [11], [10, 11]], ["Pi-/Sigma+", [15, 10], [15, 19]], ["Pi-/Pi+", [19, 20], [20, 4]], ["Pi-/LP+", [4, 6], [6]]]}
{"reaction_name": "Aldehyde-to-alkyne homologation", "rsmi": "[CH3:1][C:2]([H:3])=[O:4].[CH:5]([P:6](=[O:7])([O:8][CH3:9])[O:10][CH3:11])=[N+:12]=[N-:13]>>[CH3:1][C:2]#[CH:5].[O:4]([H:3])[P:6](=[O:7])([O:8][CH3:9])[O:10][CH3:11].[N:12]#[N:13]", "epd": [["Sigma-/Sigma+", [2, 3], [2, 5]], ["Sigma-/Pi+", [2, 4], [2, 5]], ["Pi-/Sigma+", [2, 4], [3, 4]], ["Sigma-/Pi+", [5, 12], [2, 5]], ["Sigma-/Sigma+", [5, 6], [4, 6]], ["Pi-/LP+", [5, 12], [12]], ["LP-/Pi+", [13], [12, 13]]]}
{"reaction_name": "Oxa-Michael addition", "rsmi": "[O-:1][c:2]1[cH:19][cH:15][c:17]([CH3:6])[cH:16][cH:20]1.[S:3]([c:7]1[cH:21][cH:11][cH:9][cH:14][cH:24]1)([C:18]([S:4]([c:8]1[cH:22][cH:12][cH:10][cH:13][cH:23]1)(=[O:25])=[O:26])=[CH2:5])(=[O:27])=[O:28]>>[O:1]([c:2]1[cH:19][cH:15][c:17]([CH3:6])[cH:16][cH:20]1)[CH2:5][C-:18]([S:3]([c:7]1[cH:21][cH:11][cH:9][cH:14][cH:24]1)(=[O:27])=[O:28])[S:4]([c:8]1[cH:22][cH:12][cH:10][cH:13][cH:23]1)(=[O:25])=[O:26]", "epd": [["LP-/Sigma+", [1], [1, 5]], ["Pi-/LP+", [5, 18], [18]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:1](=[O+:16][CH3:15])[c:17]1[cH:8][cH:6][cH:4][cH:7][cH:9]1.[O-:2][c:3]1[cH:13][cH:10][c:12]([CH3:5])[cH:11][cH:14]1>>[CH:1]([O:2][c:3]1[cH:13][cH:10][c:12]([CH3:5])[cH:11][cH:14]1)([O:16][CH3:15])[c:17]1[cH:8][cH:6][cH:4][cH:7][cH:9]1", "epd": [["LP-/Sigma+", [2], [2, 1]], ["Pi-/LP+", [1, 16], [16]]]}
{"reaction_name": "[1,2]-Wittig rearrangement", "rsmi": "[O:1]([CH-:3][c:2]1[cH:7][cH:5][cH:4][cH:6][cH:8]1)[CH3:9]>>[O-:1][CH:3]([c:2]1[cH:7][cH:5][cH:4][cH:6][cH:8]1)[CH3:9]", "epd": [["LP-/Sigma+", [3], [3, 9]], ["Sigma-/LP+", [1, 9], [1]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[O:1]=[S:5](=[O:2])([N:10]=[C:9]=[O:19])[c:28]1[cH:6][cH:3][c:27]([CH3:29])[cH:4][cH:7]1.[cH:8]1[cH:16][cH:11][c:22]([C:18](=[C:13]2[N:14]([CH3:25])[C:20]([CH3:24])=[C:30]([CH3:26])[S:21]2)[O:23][CH3:15])[cH:12][cH:17]1>>[O:1]=[S:5](=[O:2])([N-:10][C:9]([C:18]([c:13]1[n+:14]([CH3:25])[c:20]([CH3:24])[c:30]([CH3:26])[s:21]1)([c:22]1[cH:11][cH:16][cH:8][cH:17][cH:12]1)[O:23][CH3:15])=[O:19])[c:28]1[cH:6][cH:3][c:27]([CH3:29])[cH:4][cH:7]1", "epd": [["LP-/Pi+", [14], [13, 14]], ["Pi-/Sigma+", [18, 13], [18, 9]], ["Pi-/LP+", [9, 10], [10]]]}
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[CH3:1][O:5][c:6]1[cH:45][cH:20][c:13]([CH:42]=[C:38]2[CH:43]=[C:7]([Br:36])[C:12](=[O:34])[C:8]([Br:37])=[CH:44]2)[cH:21][cH:46]1.[c:2]1([P:35]([c:3]2[cH:15][cH:23][c:40]([N:10]([CH3:30])[CH3:31])[cH:24][cH:16]2)[c:4]2[cH:17][cH:25][c:41]([N:11]([CH3:32])[CH3:33])[cH:26][cH:18]2)[cH:14][cH:22][c:39]([N:9]([CH3:28])[CH3:29])[cH:27][cH:19]1>>[CH3:1][O:5][c:6]1[cH:45][cH:20][c:13]([CH:42]([P+:35]([c:2]2[cH:14][cH:22][c:39]([N:9]([CH3:28])[CH3:29])[cH:27][cH:19]2)([c:3]2[cH:15][cH:23][c:40]([N:10]([CH3:30])[CH3:31])[cH:24][cH:16]2)[c:4]2[cH:17][cH:25][c:41]([N:11]([CH3:32])[CH3:33])[cH:26][cH:18]2)[c:38]2[cH:43][c:7]([Br:36])[c:12]([O-:34])[c:8]([Br:37])[cH:44]2)[cH:21][cH:46]1", "epd": [["LP-/Sigma+", [35], [35, 42]], ["Pi-/Pi+", [42, 38], [38, 43]], ["Pi-/Pi+", [43, 7], [7, 12]], ["Pi-/LP+", [12, 34], [34]]]}
{"reaction_name": "N-Heterocyclic carbene generation by carbon deprotonation", "rsmi": "[Cl-:6].[NH2-:1].[cH:2]1[cH:4][n+:3]([CH3:5])[c:9]([H:10])[n:8]1[CH3:7]>>[CH:2]1=[CH:4][N:3]([CH3:5])[C:9][N:8]1[CH3:7].[Cl-:6].[NH2:1][H:10]", "epd": [["LP-/Sigma+", [1], [1, 10]], ["Sigma-/LP+", [9, 10], [9]], ["Pi-/LP+", [3, 9], [3]]]}
